US07838674B2
11.b: Azetidine-1,3,3-tricarboxylic acid 1-tert-butyl ester 3-ethyl ester
Azetidine-1,3,3-tricarboxylic acid 1-tert-butyl ester 3,3-diethyl ester (1.2 g; 0.4 mmol) in EtOH (12 ml) is cooled to 5° C. under stirring and combined with NaOH (60 mg; 0.04 mmol) in water (4 ml). The reaction mixture is left at room temperature for 1 hour, heated to 50° C. for 5 minutes, poured on brine, acidified with 2N HCl and extracted with TBME three times. The reaction mixture is extracted with TBME three times, the organic phases are combined, dried over Na2SO4 and evaporated to dryness, yielding the desired product as colorless crystals. 1H-NMR (400 MHz; DMSO-d6: 13.58 (bs, 1H); 4.20 (q, 2H); 4.12 (bs, 4H); 1.39 (s, 9H); 1.21 (t, 3H). MS (m/z) ES+: 274 (30; MH+); 174 (100).

reactant | Azetidine-1,3,3-tricarboxylic acid 1-tert-butyl ester 3,3-diethyl ester | 0.4 mmol, 1.2 g | C(C)OC(=O)C1(CN(C1)C(=O)OC(C)(C)C)C(=O)OCC | C14H23NO6
reactant | NaOH | 0.04 mmol, 60 mg | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | EtOH | 12 ml | CCO | C2H6O
solvent | water | 4 ml | O | H2O
product | Azetidine-1,3,3-tricarboxylic acid 1-tert-butyl ester 3-ethyl ester | C(C)OC(=O)C1(CN(C1)C(=O)OC(C)(C)C)C(=O)O | C12H19NO6
